*C:\Users\limaj\Desktop\Projeto inversor multitarefa\projeto pwm\projeto inversor com pic.DSN
C1 1001 0 100U
D1 1000 1001 10A05
D2 0 1000 10A05
D3 1003 1001 10A05
D4 0 1003 10A05
D5 0 1004 10A05
D6 1004 1001 10A05
L1 1088 1089 88MH
Q1 1005 1001 1021 IRC740
Q2 1007 1001 1022 IRC740
Q3 1006 1021 0 IRC740
Q4 1008 1022 0 IRC740
Q5 1009 1001 1023 IRC740
Q6 1010 1023 0 IRC740
Q7 1005 1044 1045 2N2222
Q8 1005 1044 0 2N2907
Q9 1050 1051 1052 2N2222
Q10 1050 1051 0 2N2907
Q11 0 1053 1051 2N2222
Q12 1057 1058 1059 2N2222
Q13 1057 1058 0 2N2907
Q14 0 1060 1058 2N2222
Q15 1064 1065 1067 2N2222
Q16 1064 1065 0 2N2907
Q17 0 1075 1073 2N2222
Q18 1072 1073 1074 2N2222
Q19 0 1046 1044 2N2222
Q20 1072 1073 0 2N2907
Q21 0 1082 1080 2N2222
Q22 1079 1080 1081 2N2222
Q23 1079 1080 0 2N2907
Q25 0 1068 1065 2N2222
R1 1045 1044 270
R2 1050 1006 22
R3 1052 1051 270
R4 1019 1053 560
R5 1057 1007 22
R6 1059 1058 270
R7 1018 1046 560
R8 1090 1091 22
R9 1011 1060 560
R10 1010 0 100K
R11 1009 1023 100K
R12 1007 1022 100K
R13 1008 0 100K
R14 1006 0 100K
R15 1005 1021 100K
R16 1064 1008 22
R17 1067 1065 270
R18 1012 1068 560
R19 1072 1009 22
R20 1074 1073 270
R21 1014 1075 560
R22 1079 1010 22
R23 1081 1080 270
R24 1013 1082 560
U1 1035 1036 1037 1039 0 1025 1026 1027 1028 1029 1030 1031 1032 1041 1038 1024 1033 1034 PIC16F628A
U2 1025 1018 NOT
U3 1026 1019 NOT
U4 1027 1011 NOT
U5 1028 1012 NOT
U6 1029 1014 NOT
U7 1030 1013 NOT
V1 1042 1043 200V
V2 1000 0 VSINE
V3 1003 0 VSINE
V4 1004 0 VSINE
